US05192525
Synthesis of N,N-Diethylhydroxytamoxifen (Compound II)
Clomiphene (6.06 g, 14.9 mmol) was dissolved in tetrahydrofuran (100 ml) and cooled to -40° C. t-Butyl lithium (1M in pentane, 24 mmol) was added slowly. After 5 minutes, ethylene oxide (14.6 ml, 290 mmol) was added, and the reaction mixture was stirred for 6 hours, poured into water and extracted with ether. The ether layer was evaporated and chromatographed on a silica gel column using 1:1:0.1 ether/petroleum ether/triethylamine as eluant to yield trans product (1.96 g, 27.1%, oil): and cis product (1.56 g, 21.5%, oil): Assignment of 1HNMR for aliphatic protons are presented in Table 1.

reactant | Clomiphene | 14.9 mmol, 6.06 g | CCN(CC)CCOC=1C=CC(=CC1)/C(=C(\C=2C=CC=CC2)/Cl)/C=3C=CC=CC3 | C26H28ClNO
reactant | t-Butyl lithium | 24 mmol, 1M | C(C)(C)(C)[Li]
reactant | ethylene oxide | 290 mmol, 14.6 ml | C1CO1 | C2H4O
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N,N-Diethylhydroxytamoxifen | CCN(CC)CCOC1=CC=C(C=C1)/C(=C(/CCO)\C2=CC=CC=C2)/C3=CC=CC=C3 | C28H33NO2
